US07871998B2
N-({4-[(2R,3R)-3-{[2-(4-tert-Butylphenyl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-3-cyclohexyl-D-alanine
To a solution of {4-[(2R,3R)-3-{[2-(4-tert-butylphenyl)-2-oxoethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetic acid (0.020 g, 0.038 mmol) and NMM (0.013 ml, 0.118 mmol) in DMF (3 ml) at RT was added TBTU (0.019 g, 0.059 mmol). After 90 min glycyl-3-cyclohexyl-D-alanine (0.009 g, 0.039 mmol) was added and the mixture was stirred for 18 h before the reaction was quenched by the addition of water (1 ml). The mixture was diluted with MeOH (1 ml) and NaBH4 (0.025 g, 0.661 mmol) was added. After 10 min the reaction was quenched by the addition of a 0.1M ammonium acetate buffer (2 ml) and most of the methanol was removed under reduced pressure. The remaining solution was purified by preparative HPLC using a gradient of 20-60% MeCN in a 0.1M ammonium acetate buffer as eluent. Freeze-drying of the pure fractions gave the desired product as a white solid (0.010 g, 36% yield).

reactant | {4-[(2R,3R)-3-{[2-(4-tert-butylphenyl)-2-oxoethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetic acid | 0.038 mmol, 0.020 g | C(C)(C)(C)C1=CC=C(C=C1)C(CS[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)O)C=C1)=O | C29H28FNO5S
reactant | NMM | 0.118 mmol, 0.013 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.059 mmol, 0.019 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | glycyl-3-cyclohexyl-D-alanine | 0.039 mmol, 0.009 g | NCC(=O)N[C@H](CC1CCCCC1)C(=O)O | C11H20N2O3
reactant | NaBH4 | 0.661 mmol, 0.025 g | [BH4-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 1 ml | CO | CH4O
product | N-({4-[(2R,3R)-3-{[2-(4-tert-Butylphenyl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-3-cyclohexyl-D-alanine | 0.010 g, 36% yield | C(C)(C)(C)C1=CC=C(C=C1)C(CS[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@H](CC2CCCCC2)C(=O)O)C=C1)O | C40H48FN3O7S
